US05856517
6-Methoxymethyl-1-(2-propyl)indole was reacted with oxalyl chloride and then 2-(1-methyl-1H-indol-3-yl) ethanimidic acid isopropyl ester hydrochloride as described in Example 3b to yield 3-[1-(2-propyl)-6-methoxymethyl-1H-indol-3-yl]-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione.

reactant | 6-Methoxymethyl-1-(2-propyl)indole | COCC1=CC=C2C=CN(C2=C1)C(C)C | C13H17NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(1-methyl-1H-indol-3-yl) ethanimidic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(CC1=CN(C2=CC=CC=C12)C)=N
product | 3-[1-(2-propyl)-6-methoxymethyl-1H-indol-3-yl]-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | CC(C)N1C=C(C2=CC=C(C=C12)COC)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C26H25N3O3
